
* Slew RateのVAを決定するためのネットリスト
.lib srdc
VDD	vdd 0		half
VSS	0 vss		half

* For positive amplitude
X1a	s1 in1 out1 vdd vss	opamp
R1a	s1 0			valr1
R2a	out1 s1			valr2

* For negative amplitude
X1b	s2 in2 out2 vdd vss	opamp
R1b	s2 0			valr1
R2b	out2 s2			valr2

* Offset voltage
X1c     ss 0 os vdd vss         opamp
R1c     ss 0                    valr1
R2c     os ss                   valr2


VIN	in1 0			DC 0
E1	0 in2 in1 0		1

* Slew rate simulation settings (use sr.amp in meas.lib)
* pulse amplitude and transition time is described in sr.amp
.PARAM
+ ar=1 G=2			$ pulse amplitude ratio to max amplitude
+ valr1=10k valr2=10k
+ vmin=10m half='psvoltage/2' vstep=10m

.DC VIN vmin half vstep
.PRINT V(in1) V(in2) V(out1,os) V(out2,os)
+ PAR'abs(V(out1,os)-V(in1)*G)/V(in1)'
+ PAR'abs(V(out2,os)-V(in2)*G)/V(in1)'
*.MEAS DC vps PARAM='abs(V(out1,os)-V(in1)*G)/V(in1)'
*.MEAS DC vns PARAM='abs(V(out2,os)-V(in2)*G)/V(in2)'
* NOTE: MEASだとfailedになるけど、誤差が5%以上になる場所を探しているなら、failedだったら誤差がないってことでは？
.MEAS DC vpmax FIND V(in1) WHEN PAR'abs(V(out1,os)-V(in1)*G)/V(in1)'=0.05 RISE=1
.MEAS DC vnmax FIND V(in1) WHEN PAR'abs(V(out2,os)-V(in2)*G)/V(in1)'=0.05 RISE=1
.MEAS DC amp PARAM='min(vpmax,abs(vnmax))*ar'

.endl